US04013645
c. Sodium 3-acetoxymethyl-7β-(2,6-dichlorobenzamido)ceph-2-em-4α-carboxylate
The hydrochloride of 3-acetoxymethyl-7β-aminoceph-2-em-4α-carboxylic acid (1.5 g., 0.05 m.mol) was heated in refluxing dry chloroform (20 ml) containing hexamethyldisilazane (3.2 ml. 0.015 mol) for 1 hr. The excess silylating reagent and solvent were removed under high vacuum. The resulting gum was redissolved in dry ethyl acetate (20 ml) and 2,6-dichlorobenzoyl chloride (1.0 g 0.45 mmol) added. the reaction was carried out for 1 hr. at reflux. Treatment of the organic phase with dilute hydrochloric acid, water, drying and evaporation gave a gum. Addition of a solution of 10% sodium 2-ethylhexanoate in ethyl acetate precipitated a sodium salt, νmax (Nujol) 3300 (NH), 1760 (β-lactam), 1720 (acetate), 1660 (amide) and 1605 cm-1 (--CO2Na), RF (system 3) 0.53 (with an impurity, RF 0.19). These properties are consistent with the structure of the compound named in the title.

reactant | hydrochloride | Cl | ClH
reactant | 3-acetoxymethyl-7β-aminoceph-2-em-4α-carboxylic acid | 1.5 g | C(C)(=O)OCC1=CS[C@H]2N([C@H]1C(=O)O)C([C@H]2N)=O | C10H12N2O5S
reactant | hexamethyldisilazane | 0.015 mol, 3.2 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 2,6-dichlorobenzoyl chloride | 0.45 mmol, 1.0 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | sodium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | Sodium 3-acetoxymethyl-7β-(2,6-dichlorobenzamido)ceph-2-em-4α-carboxylate | C(C)(=O)OCC1=CS[C@H]2N([C@H]1C(=O)[O-])C([C@H]2NC(C2=C(C=CC=C2Cl)Cl)=O)=O.[Na+] | InChI=1S/C17H14Cl2N2O6S.Na/c1-7(22)27-5-8-6-28-16-12(15(24)21(16)13(8)17(25)26)20-14(23)11-9(18)3-2-4-10(11)19;/h2-4,6,12-13,16H,5H2,1H3,(H,20,23)(H,25,26);/q;+1/p-1/t12-,13-,16-;/m1./s1
